US07442709B2
3-[4-(Benzyloxy)phenyl]-6-bromo-3H-imidazo[4,5-b]pyridine (2 g, 5.26 mmol), Zn(CN)2 (371 mg, 3.16 mmol), Pd2(dba)3 (101 mg, 0.11 mmol) and dppf (122 mg, 0.22 mmol) in degassed DMF/H2O (100:1) (15 mL) was stirred at 120° C. under N2 for 20 h. The mixture was then cooled to rt and treated with NH4Cl:NH4OH:H2O (4:1:4) (45 mL) and reheated to 80° C. for 30 min and then stirred at 0° C. for another 30 min. The precipitated solids were isolated by filtration and purified by chromatography over silica gel eluting with 50% EtOAc/hexane to give 3-[4-(benzyloxy)phenyl]-3H-imidazo[4,5-b]pyridine-6-carbonitrile. 1H NMR (400 MHz, D6-Acetone) δ 5.16 (s, 2H), 7.18 (d, J=8 Hz, 2H), 7.36-7.47 (m, 5H), 7.57 (d, J=8 Hz, 2H), 8.41 (s, 1H), 8.44 (d, J=2 Hz, 1H) and 8.70 (d, J=2 Hz, 1H); MS (ES+): m/z 327 [MH+].

reactant | 3-[4-(Benzyloxy)phenyl]-6-bromo-3H-imidazo[4,5-b]pyridine | 5.26 mmol, 2 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C=NC=2C1=NC=C(C2)Br | C19H14BrN3O
reactant | NH4Cl NH4OH H2O | 45 mL | [NH4+].[Cl-].[NH4+].[OH-].O
reactant | DMF H2O | 15 mL | CN(C)C=O.O
catalyst | Zn(CN)2 | 3.16 mmol, 371 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd2(dba)3 | 0.11 mmol, 101 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | dppf | 0.22 mmol, 122 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 3-[4-(benzyloxy)phenyl]-3H-imidazo[4,5-b]pyridine-6-carbonitrile | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C=NC=2C1=NC=C(C2)C#N | C20H14N4O
